US08071592B2
(e) 1-(2-{4-[(2,3-Dihydro[1,4]dioxino[2,3-c]pyridin-7-ylmethyl)amino]-1-piperidinyl}ethyl)-7-fluoro-4-(methyloxy)-2(1H)-quinolinone Dihydrochloride
A solution of 1-[2-(4-amino-1-piperidinyl)ethyl]-7-fluoro-4-(methyloxy)-2(1H)-quinolinone (0.057 g, 0.18 mmol) and 2,3-dihydro[1,4]dioxino[2,3-c]pyridine-7-carbaldehyde (for a synthesis see WO2004058144, Example 2(c) or WO03/087098, Example 19(d)) (0.027 g, 0.16 mmol) in 1:1 dichloromethane/methanol (4 ml) was stirred with 3A sieves for 2 h then sodium triacetoxyborohydride (0.115 g, 0.54 mmol) added and the mixture stirred overnight. The solution was diluted with dichloromethane and washed with sodium carbonate solution. The aqueous was extracted with dichloromethane/methanol (10%) and the combined organics dried and concentrated. Chromatography over silica (20 g SPE gradient elution dichloromethane/methanol 0-20%) provided the free base of the title compound (0.022 g) which was converted to the title dihydrochloride salt by dissolving in dichloromethane and adding 4N HCl in 1,4-dioxane. Ether was added to the solution and the precipitate collected (0.022 g, 23%).

reactant | 1-[2-(4-amino-1-piperidinyl)ethyl]-7-fluoro-4-(methyloxy)-2(1H)-quinolinone | 0.18 mmol, 0.057 g | NC1CCN(CC1)CCN1C(C=C(C2=CC=C(C=C12)F)OC)=O | C17H22FN3O2
reactant | 2,3-dihydro[1,4]dioxino[2,3-c]pyridine-7-carbaldehyde | O1CCOC=2C=NC(=CC21)C=O | C8H7NO3
reactant | dichloromethane methanol | 4 ml | ClCCl.CO
reactant | sodium triacetoxyborohydride | 0.54 mmol, 0.115 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | dichloromethane | ClCCl | CH2Cl2
product | 1-(2-{4-[(2,3-Dihydro[1,4]dioxino[2,3-c]pyridin-7-ylmethyl)amino]-1-piperidinyl}ethyl)-7-fluoro-4-(methyloxy)-2(1H)-quinolinone Dihydrochloride | 0.022 g | Cl.Cl.O1CCOC=2C=NC(=CC21)CNC2CCN(CC2)CCN2C(C=C(C1=CC=C(C=C21)F)OC)=O | InChI=1S/C25H29FN4O4.2ClH/c1-32-22-14-25(31)30(21-12-17(26)2-3-20(21)22)9-8-29-6-4-18(5-7-29)27-15-19-13-23-24(16-28-19)34-11-10-33-23;;/h2-3,12-14,16,18,27H,4-11,15H2,1H3;2*1H
